US05273999
Preparation of 4-[(5-Bromopentyl)oxy]-3-(3-ethoxy-3-oxopropyl)-γ-oxo-benzenebutanoic Acid Ethyl Ester
Starting with 0.458 g (1.42 mmol) of 3-(3-ethoxy-3-oxopropyl)-4-hydroxy-γ-oxobenzenebutanoic acid ethyl ester, and 1.65 g (7.29 mmol) of 1,5-dibromopentane, the title compound was obtained in 80.6% yield as a white solid, mp 40°-41° C., using the procedure of example 21.

reactant | 3-(3-ethoxy-3-oxopropyl)-4-hydroxy-γ-oxobenzenebutanoic acid ethyl ester | 1.42 mmol, 0.458 g | C(C)OC(CCC(C1=CC(=C(C=C1)O)CCC(=O)OCC)=O)=O | C17H22O6
reactant | 1,5-dibromopentane | 7.29 mmol, 1.65 g | BrCCCCCBr | C5H10Br2
product | 4-[(5-Bromopentyl)oxy]-3-(3-ethoxy-3-oxopropyl)-γ-oxo-benzenebutanoic Acid Ethyl Ester | 80.6% yield | C(C)OC(CCC(C1=CC(=C(C=C1)OCCCCCBr)CCC(=O)OCC)=O)=O | C22H31BrO6
